US05422358
Preparation of 3-(R)-(+)-(1-cyano-1,1-diphenylmethyl)-1-phenethylpiperidine
A mixture containing 3-(R)-(+)-(1-cyano-1,1-diphenylmethyl)piperidine (1 g), phenethyl bromide (0.-67 g), anhydrous potassium carbonate (1.5 g) and acetonitrile (25 ml) was heated under reflux for 4 hours. The mixture was partitioned between dichloromethane (50 ml) and 10% aqueous potassium carbonate (30 ml), the layers separated, and the aqueous layer extracted with dichloromethane (3×30 ml)--. The combined dichloromethane extracts were dried (MgSO4) and concentrated in vacuo to give an oil which was purified by column chromatography on silica eluting with hexane containing dichloromethane (30% up to 70%) then dichloromethane containing methanol (0% up to 5%). The product-containing fractions were combined and concentrated in vacuo to give an oil which was crystallised from acetonitrile to give the title compound as colourless rhombs, yield 0.72 g, m.p. 134°-138° C., [α]D25 +13.3° (C 1.0, CH2Cl2).

reactant | 3-(R)-(+)-(1-cyano-1,1-diphenylmethyl)piperidine | 1 g | C(#N)C(C1=CC=CC=C1)(C1=CC=CC=C1)[C@@H]1CNCCC1 | C19H20N2
reactant | phenethyl bromide | -67 g | C(CC1=CC=CC=C1)Br | C8H9Br
reactant | potassium carbonate | 1.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | 3-(R)-(+)-(1-cyano-1,1-diphenylmethyl)-1-phenethylpiperidine | C(#N)C(C1=CC=CC=C1)(C1=CC=CC=C1)[C@@H]1CN(CCC1)CCC1=CC=CC=C1 | C27H28N2
